US07507729B2
a) (5-Methyl-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester
As described for example 320a, 2-hydroxy-4-methyl-pyridine was reacted with ethyl bromoacetate and potassium carbonate. Extractive workup followed by chromatography (SiO2, heptane:ethyl acetate=100:0 to 0:100) afforded the title compound as a colorless liquid (yield: 76%). MS: m/e=196.1 [M+H]+.

reactant | 2-hydroxy-4-methyl-pyridine | OC1=NC=CC(=C1)C | C6H7NO
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Methyl-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester | yield: 76% | C(C)OC(CN1C(C=CC(=C1)C)=O)=O | C10H13NO3
